US04172130
2-(N-(tert.-Butoxycarbonyl)-L-phenylalanyl-aminooxy)-acetic acid
6.97 g (40.5 mmoles) of aminooxy-acetic acid hydrobromide are reacted with 14.68 g (40.5 mmoles) of BOC--Phe--OSu in 100 ml of DMF in the presence of 6.3 ml (45 mmoles) of triethylamine. Next day the reaction mixture is evaporated in vacuo, the oily residue is dissolved in 100 ml of chloroform, and the chloroform solution is washed thrice with 1 n hydrochloric acid. The organic solution is dried, evaporated in vacuo, and the oily residue is solidified with diisopropyl ether. The crude product is purified by precipitation from an ethyl acetate-diisopropyl ether solvent system. 9.70 g (74%) of BOC--Phe--OGly--OH are obtained; m.p.: 136°-137° C., Rf5 : 0.4, [α]D : -17.8° (c: 1.0, in ethanol).

reactant | aminooxy-acetic acid hydrobromide | 40.5 mmoles, 6.97 g | Br.NOCC(=O)O
reactant | BOC--Phe--OSu | 40.5 mmoles, 14.68 g | CC(C)(C)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)ON2C(=O)CCC2=O | C18H22N2O6
reactant | triethylamine | 45 mmoles, 6.3 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | ethanol | C(C)O | C2H6O
product | 2-(N-(tert.-Butoxycarbonyl)-L-phenylalanyl-aminooxy)-acetic acid | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)NOCC(=O)O | C16H22N2O6
